2145-05-16 07:19:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2145-5-15**] 08:09 PM
 MULTI LUMEN - STOP [**2145-5-15**] 08:14 PM
   [**5-15**]
   - Another large melanic stool in AM, repeat Hct stable 29.4 but
   subsequent PM Hct 25-26. Transfused 1 unit pRBC.
   - Surgery made aware. Discussion with HCP: [**Name (NI) **] with palliative care in
   AM. If overnight bleed, will go to IR but no surgery.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2145-5-16**] 12:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-5-16**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 84 (75 - 92) bpm
   BP: 117/56(69) {91/41(56) - 143/73(81)} mmHg
   RR: 18 (9 - 25) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 9 (9 - 11)mmHg
   Total In:
                                                                    710 mL
                                                                    173 mL
   PO:
   TF:
   IVF:
                                                                    335 mL
                                                                    173 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                    390 mL
                                                                    260 mL
   Urine:
                                                                    390 mL
                                                                    260 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    320 mL
                                                                    -87 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 97%
   ABG: ///30/
   Physical Examination
   GEN: NAD. Hard of hearing
   HEENT: Dry MM. scera anicteric
   LUNGS: CTAB
   HEART: RRR No m/r/g
   ABD: Obese, NT/ND
   EXTREM: Warm 2+ DP and PT pulses bilaterally
   Labs / Radiology
   202 K/uL
   9.5 g/dL
   84 mg/dL
   0.6 mg/dL
   30 mEq/L
   3.9 mEq/L
   16 mg/dL
   107 mEq/L
   140 mEq/L
   27.9 %
   8.1 K/uL
        [image002.jpg]
                             [**2145-5-14**]  04:56 AM
                             [**2145-5-14**]  12:00 PM
                             [**2145-5-14**]  06:15 PM
                             [**2145-5-15**]  12:38 AM
                             [**2145-5-15**]  05:06 AM
                             [**2145-5-15**]  08:10 AM
                             [**2145-5-15**]  09:00 AM
                             [**2145-5-15**]  03:40 PM
                             [**2145-5-15**]  11:44 PM
                             [**2145-5-16**]  02:23 AM
   WBC
   9.0
   9.1
   8.1
   Hct
   27.7
   27.8
   25.4
   29.6
   29.4
   25.5
   29.4
   26.3
   27.3
   27.9
   Plt
   162
   190
   202
   Cr
   0.5
   0.6
   0.6
   Glucose
   105
   92
   84
   Other labs: PT / PTT / INR:12.6/25.4/1.1, Differential-Neuts:67.4 %,
   Lymph:19.5 %, Mono:4.4 %, Eos:8.0 %, Albumin:2.8 g/dL, Ca++:8.7 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
 .H/O ALTERED MENTAL STATUS (NOT DELIRIUM)
 ALTERATION IN NUTRITION
 URINARY TRACT INFECTION (UTI)
 HEMATEMESIS (UPPER GI BLEED, UGIB)
   [**Age over 90 **]yo F with h/o diverticuli admitted from NEBH with GIB for
   embolization procedure now s/p 12 units pRBCs with no bleed found in
   IR.
   #. GIB: Likely had bleed prior with first BM today letting out old
   blood.
   - cycle hcts Q6H and transfuse as necessary
   - Will maintain CVL and PIV
   - Will keep active T+C
   - No surgery if bleeds again per PCP.  [**Name10 (NameIs) **] go for another IR
   embolization procedure if need be
   - Plan for palliative care consult for goals of care.
   #. Chest nodule: F/U fr chest ct.
   #. UTI: E.Coli >100,000 in UCx on [**5-9**].
   - Cte Cipro (day [**6-15**])
   #. Schizophrenia: Continue zyprexa and paxil
   #. Dysrrhytmia: Unclear what dysrrhythmia it is.  In sinus. Will
   monitor on tele while in ICU and holding beta blocker given risk of
   hypotension with bleed.
   #. FEN: IVF PRN E: replete PRN N: NPO
   #. PPx: PPI, Boots
   #. Access: CVL, PIV
   # Communication: PCP, [**Last Name (NamePattern4) **]. [**Last Name (STitle) 1998**] [**Telephone/Fax (1) 6847**], Health care proxy [**Name (NI) 4446**]
   [**Last Name (NamePattern1) 6848**] - Home (use first) [**Telephone/Fax (1) 6849**], Cell phone [**Telephone/Fax (1) 6866**]
   #. Code: DNR/DNI except for procedures - confirmed with HCP
   ICU [**Name (NI) 151**]
   Nutrition: maintenance fluids
   Glycemic Control:
   Lines:
   Multi Lumen - [**2145-5-15**] 08:09 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: Pt with sigmoid GI bleed
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:ICU

2145-05-16 12:35:00 Physician Attending Progress Note
Chief Complaint: GI Bleed
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 MULTI LUMEN - START [**2145-5-15**] 08:09 PM
 MULTI LUMEN - STOP [**2145-5-15**] 08:14 PM
   -Patient with embolization procedure attempted but unable to localize
   source.
   -Patient with recurrent melena over past 24 hours
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2145-5-16**] 12:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Flowsheet Data as of  [**2145-5-16**] 12:34 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.1
C (96.9
   HR: 77 (75 - 88) bpm
   BP: 158/57(123) {91/41(58) - 158/74(123)} mmHg
   RR: 19 (10 - 25) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 5 (5 - 10)mmHg
   Total In:
                                                                    710 mL
                                                                    225 mL
   PO:
   TF:
   IVF:
                                                                    335 mL
                                                                    225 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                    390 mL
                                                                    630 mL
   Urine:
                                                                    390 mL
                                                                    630 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    320 mL
                                                                   -406 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Face tent
   SpO2: 98%
   ABG: ///30/
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.5 g/dL
   202 K/uL
   84 mg/dL
   0.6 mg/dL
   30 mEq/L
   3.9 mEq/L
   16 mg/dL
   107 mEq/L
   140 mEq/L
   27.4 %
   8.1 K/uL
        [image002.jpg]
                             [**2145-5-14**]  12:00 PM
                             [**2145-5-14**]  06:15 PM
                             [**2145-5-15**]  12:38 AM
                             [**2145-5-15**]  05:06 AM
                             [**2145-5-15**]  08:10 AM
                             [**2145-5-15**]  09:00 AM
                             [**2145-5-15**]  03:40 PM
                             [**2145-5-15**]  11:44 PM
                             [**2145-5-16**]  02:23 AM
                             [**2145-5-16**]  08:00 AM
   WBC
   9.1
   8.1
   Hct
   27.8
   25.4
   29.6
   29.4
   25.5
   29.4
   26.3
   27.3
   27.9
   27.4
   Plt
   190
   202
   Cr
   0.6
   0.6
   Glucose
   92
   84
   Other labs: PT / PTT / INR:12.6/25.4/1.1, Differential-Neuts:67.4 %,
   Lymph:19.5 %, Mono:4.4 %, Eos:8.0 %, Albumin:2.8 g/dL, Ca++:8.7 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   [**Age over 90 **] yo female admitted wtih LGIB and with difficult to localize and
   reverse specific source.  This is despite repeated imaging with tagged
   RBC scan as well as angio.  As was concensus at [**Hospital6 **]
   patient is a poor surgical candidate at this time.  In this setting
   there has been recurrent and persistent slow blood loss from GI tract
   as suggested by paroxysms of melena.
   1) GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)-=
   -PPI
   -Maintain IV access
   -Follow HCT
   -Consider repeat tagged RBC scan for recurrent brisk bleeding
   -Will have to organize family meeting and continue team discussion to
   confirm next appropriate investigations given current clinical course
   -With current plan
repeat angio would be available for sudden
   overwhelming bleeding.
 .H/O ALTERED MENTAL STATUS (NOT DELIRIUM)
 ALTERATION IN NUTRITION
 URINARY TRACT INFECTION (UTI)
 HEMATEMESIS (UPPER GI BLEED, UGIB)
   ICU Care
   Nutrition: Will need speech and swallow
   Glycemic Control:
   Lines:
   Multi Lumen - [**2145-5-15**] 08:09 PM
   20 Gauge - [**2145-5-16**] 11:29 AM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 40 minutes

2145-05-17 06:46:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Patient's Hct was stable
   - After discussion with HCP and PCP, [**Name10 (NameIs) 6928**] of care focused on comfort.
   They want her to return to [**Location (un) 4369**] with hospice.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2145-5-16**] 04:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-5-17**] 06:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 36.2
C (97.1
   HR: 75 (65 - 83) bpm
   BP: 144/70(84) {127/47(67) - 163/119(124)} mmHg
   RR: 16 (12 - 33) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 11 (5 - 11)mmHg
   Total In:
                                                                  1,329 mL
   PO:
   TF:
   IVF:
                                                                  1,329 mL
   Blood products:
   Total out:
                                                                  1,650 mL
                                                                  1,600 mL
   Urine:
                                                                  1,650 mL
                                                                  1,600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -321 mL
                                                                 -1,600 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Face tent
   SpO2: 96%
   ABG: ////
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   202 K/uL
   9.5 g/dL
   84 mg/dL
   0.6 mg/dL
   30 mEq/L
   3.9 mEq/L
   16 mg/dL
   107 mEq/L
   140 mEq/L
   26.3 %
   8.1 K/uL
        [image002.jpg]
                             [**2145-5-14**]  06:15 PM
                             [**2145-5-15**]  12:38 AM
                             [**2145-5-15**]  05:06 AM
                             [**2145-5-15**]  08:10 AM
                             [**2145-5-15**]  09:00 AM
                             [**2145-5-15**]  03:40 PM
                             [**2145-5-15**]  11:44 PM
                             [**2145-5-16**]  02:23 AM
                             [**2145-5-16**]  08:00 AM
                             [**2145-5-16**]  03:50 PM
   WBC
   9.1
   8.1
   Hct
   25.4
   29.6
   29.4
   25.5
   29.4
   26.3
   27.3
   27.9
   27.4
   26.3
   Plt
   190
   202
   Cr
   0.6
   0.6
   Glucose
   92
   84
   Other labs: PT / PTT / INR:12.6/25.4/1.1, Differential-Neuts:67.4 %,
   Lymph:19.5 %, Mono:4.4 %, Eos:8.0 %, Albumin:2.8 g/dL, Ca++:8.7 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.6 mg/dL
   No new culture data
   Assessment and Plan
 COMFORT CARE (CMO, COMFORT MEASURES)
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 H/O ALTERED MENTAL STATUS (NOT DELIRIUM)
 ALTERATION IN NUTRITION
 URINARY TRACT INFECTION (UTI)
 HEMATEMESIS (UPPER GI BLEED, UGIB)
   [**Age over 90 **] yo female admitted wtih LGIB and with difficult to localize and
   reverse specific source.  This is despite repeated imaging with tagged
   RBC scan as well as angio.  As was concensus at [**Hospital6 **]
   patient is a poor surgical candidate at this time.  In this setting
   there has been recurrent and persistent slow blood loss from GI tract
   as suggested by paroxysms of melena.
   1) GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)-=
   -PPI
   -Maintain IV access
   -Follow HCT
   -Consider repeat tagged RBC scan for recurrent brisk bleeding
   -Will have to organize family meeting and continue team discussion to
   confirm next appropriate investigations given current clinical course
   -With current plan
repeat angio would be available for sudden
   overwhelming bleeding.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2145-5-15**] 08:09 PM
   20 Gauge - [**2145-5-16**] 11:29 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: